US04824848
5-Butyl-3-methylamino-7-(4-nitrobenzyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 3-butyl-6-hydrazino-1-(4-nitrobenzyl)uracil (1.7 g, 5 mM) and methyl isothiocyanate (0.7 ml, 10 mM) in DMF (20 ml) was stirred at 120° C. for 20 hours. To the solution was added ethanol (20 ml) and the mixture was cooled to give crystalline product. Recrystallization from DMF/ethanol gave pale yellow crystals (0.61 g, 32%), m.p. 277°-279° C.

reactant | 3-butyl-6-hydrazino-1-(4-nitrobenzyl)uracil | 5 mM, 1.7 g | C(CCC)N1C(N(C(=CC1=O)NN)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H19N5O4
reactant | methyl isothiocyanate | 10 mM, 0.7 ml | CN=C=S | C2H3NS
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Butyl-3-methylamino-7-(4-nitrobenzyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.61 g, 32% | C(CCC)N1C(N(C2=C(C1=O)C(=NN2)NC)CC2=CC=C(C=C2)[N+](=O)[O-])=O | C17H20N6O4
